US08071600B2
10% hydrochloric acid (4 ml) was added to a THF solution (7 ml) of 1-(8-methoxy-2,2-dimethyl-4H-benzo[1,3]dioxin-6-yl)pyrrolidin-2-one (0.36 g, 1.3 mmol) and the mixture was stirred at room temperature for 17 hours. Water was added to the reaction solution, which was then extracted with dichloromethane. The extracted material was dried over magnesium sulfate, concentrated under reduced pressure and purified by silica gel column chromatography (dichloromethane:methanol:=300:1→30:1). The purified product was concentrated to dryness under reduced pressure to obtain 1-(4-hydroxy-3-hydroxymethyl-5-methoxyphenyl)pyrrolidin-2-one (0.31 g) as light brown powder.

reactant | hydrochloric acid | 4 ml | Cl | ClH
reactant | THF | 7 ml | C1CCOC1 | C4H8O
reactant | 1-(8-methoxy-2,2-dimethyl-4H-benzo[1,3]dioxin-6-yl)pyrrolidin-2-one | 1.3 mmol, 0.36 g | COC1=CC(=CC=2COC(OC21)(C)C)N2C(CCC2)=O | C15H19NO4
solvent | Water | O | H2O
product | 1-(4-hydroxy-3-hydroxymethyl-5-methoxyphenyl)pyrrolidin-2-one | 0.31 g | OC1=C(C=C(C=C1OC)N1C(CCC1)=O)CO | C12H15NO4
